US04025505
The starting material is prepared as follows. The mixture of 6.2 g of 5-chlorohomophthalic acid and 70 ml of acetic anhydride is refluxed for 1/2 hour and evaporated. The residue is washed with chloroform, carbon tetrachloride and dryed to yield the 5-chlorohomophthalic anhydride melting at 170°-173°.

reactant | 5-chlorohomophthalic acid | 6.2 g | ClC1=CC=C(C(CC(=O)O)=C1)C(=O)O | C9H7ClO4
solvent | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-chlorohomophthalic anhydride | ClC1=CC=C2C(CC(=O)OC2=O)=C1 | C9H5ClO3
